.SUBCKT 3input0xA_X1 A1 A2 A3 VDD VSS Y
MM5 aoi21 A1 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM4 n5 A3 aoi21 VSS nmos_rvt w=46.00n l=16n nfin=2
MM3 n5 A2 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM2 n6 A1 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM1 n6 A2 aoi21 VDD pmos_rvt w=46.00n l=16n nfin=2
MM0 n6 A3 aoi21 VDD pmos_rvt w=46.00n l=16n nfin=2
MM9 Y aoi21 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM8 n1 A2 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM7 n1 A3 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM6 n1 A1 Y VSS nmos_rvt w=46.00n l=16n nfin=2
MM13 n2 aoi21 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM12 n2 A1 Y VDD pmos_rvt w=46.00n l=16n nfin=2
MM11 n2 A3 n3 VDD pmos_rvt w=46.00n l=16n nfin=2
MM10 Y A2 n3 VDD pmos_rvt w=46.00n l=16n nfin=2
.ENDS
