.SUBCKT 3input0xEB_X1_DH_P A1 A2 A3 VDD VSS Y
MM3 n1 A2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 nand2 A1 n1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 nand2 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 nand2 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 VDD nand2 Y VDD pmos_rvt w=46.00n l=16n nfin=2
MM6 VDD A3 Y VDD pmos_rvt w=46.00n l=16n nfin=2
MM5 Y A2 n2 VDD pmos_rvt w=46.00n l=16n nfin=2
MM4 VDD A1 n2 VDD pmos_rvt w=46.00n l=16n nfin=2
MM11 VSS nand2 n3 VSS nmos_rvt w=46.00n l=16n nfin=2
MM10 n3 A3 n4 VSS nmos_rvt w=46.00n l=16n nfin=2
MM9 Y A1 n4 VSS nmos_rvt w=46.00n l=16n nfin=2
MM8 Y A2 n4 VSS nmos_rvt w=46.00n l=16n nfin=2
.ENDS
